Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Prednisone / Imuran / Meperidine / Remicade / Dilaudid / 
Celebrex
 
Attending: ___.
 
Chief Complaint:
recurrent Crohn's flare.
 
Major Surgical or Invasive Procedure:
1. Laparotomy, lysis of adhesions, resection of ileosigmoid
    anastomosis, and end ileostomy.
2. Intraoperative flexible sigmoidoscopy.

 
History of Present Illness:
Mr. ___ is a ___ male with a past medical/surgical history 
of Crohn's Disease, monoarticular arthritis left knee, 
nephrolithiasis, ileocolic resection, appy, and laminectomy. The 
pt was admitted for recurrent Crohn's disease with neoterminal 
ileal stricture and active proctitis. He was admitted to 
___ from the PACU following a Laparotomy, lysis of 
adhesions, resection of ileosigmoid anastomosis, end ileostomy 
and intraoperative flexible sigmoidoscopy.

 
Past Medical History:
Crohn's Disease  
h/o monoarticular arthritis left knee  
h/o nephrolithiasis  
s/p ileocolic resection  
s/p appy  
s/p laminectomy  

 
Social History:
___
Family History:
Mother with ___.
 
Physical Exam:
At Discharge: 
Vitals: AVSS
GEN: NAD, A/Ox3
CV: RRR, no m/r/g
RESP: CTAB, no W/R/R
ABD: +soft, ND, appropriately TTP, +flatus
Incision: Midline abdominal OTA with Dermabond. Distal 
serosanguinous drainage. DSD applied. Otherwise CDI
Extrem: no c/c/e
 
Pertinent Results:
___ 08:00AM BLOOD Hct-26.2*
___ 07:30AM BLOOD Plt ___
___:30AM BLOOD Glucose-123* UreaN-13 Creat-1.0 Na-136 
K-4.3 Cl-99 HCO3-30 AnGap-11
___ 07:30AM BLOOD Calcium-8.5 Phos-2.6* Mg-2.4
___ 02:45PM URINE Color-Yellow Appear-Cloudy Sp ___
___ 02:45PM URINE Blood-TR Nitrite-NEG Protein-30 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-0.2 pH-5.5 Leuks-NEG
___ 02:45PM URINE RBC-2 WBC-0 Bacteri-NONE Yeast-NONE Epi-2
___ 03:15PM URINE Hours-RANDOM Creat-174 Na-66
___ 03:15PM URINE Osmolal-538
URINE CULTURE (Final ___:    NO GROWTH. 
.
Pathology - DIAGNOSIS: 
Ileocolectomy:
1. Crohn's disease, chronic active.
A.Involvement of the ileum and colon with ulceration and 
transmural inflammation.
B.Mucosal involvement of the colon extends to the distal margin.
C.No sinus tracts or dysplasia.
2.There is a segment of normal ileum at the proximal end.
3. Regional lymph nodes with multiple granulomas.

 
Brief Hospital Course:
Mr. ___ was taken to the OR on ___ for a laparotomy, 
lysis of adhesions, resection of ileosigmoid anastomosis, with 
an end ileostomy and intraoperative flexible sigmoidoscopy. He 
was admitted to ___ from the PACU, his Vitals  were 
stable. He did have a low-grade temp to 100 which resolved with 
ambulation and use of incentive spirometer. 
.
Pt had a morphine PCA with good effect, foley. He was bolused 
for low urine output with good response. Foley was removed. He 
was able to void adequate amounts. Pt was started on sips 
___, increased to clears and po meds on ___. 
.
He had scant sanguinous drainage from distal abdominal incision. 
Site was monitored. DSD applied. No signs of dehiscence or 
infection. Draining subsided prior to discharge. 
.
He was seen by ostomy RN during admission, provided with ostomy 
teaching. He reported feeling comfortable with ostomy 
management.
.
He reported flatus, and was advanced to low residue on 
___ well with continued flatus and no complaints of 
N/V, abdominal distention.  His vitals were stable on day of 
discharge. He is independent with ADL's. He was discharged home 
with ___ for continued ostomy teaching and assessment of 
surgical wound. 

 
Medications on Admission:
 Vitamin B12 1000mcg, Pentasa 500mg TID, Tramadol 50mg PRN, 
vicodin 
 
Discharge Medications:
1. Mesalamine 250 mg Capsule, Sustained Release Sig: Two (2) 
Capsule, Sustained Release PO TID (3 times a day).  
2. Hydrocodone-Acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
Q4H (every 4 hours) as needed for pain for 2 weeks: Do not 
exceed 4000mg of acetaminophen in 24hrs.
Disp:*45 Tablet(s)* Refills:*0*
3. Loperamide 2 mg Capsule Sig: ___ Capsules PO ___ times as 
needed for excessive ostomy output: Titrate ___ tabs based on 
your ostomy output.
Disp:*180 Capsule(s)* Refills:*2*
4. Tramadol 50 mg Tablet Sig: One (1) Tablet PO at bedtime as 
needed for insomnia.  
5. Vitamin B-12 1,000 mcg/mL Solution Sig: One (1)  Injection 
once a month.  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary:
Recurrent Crohn disease with neoterminal ileal stricture and 
active proctitis.
.
Secondary:
Crohn's Disease, h/o monoarticular arthritis left knee, h/o 
nephrolithiasis, s/p ileocolic resection, s/p appy, s/p 
laminectomy 
 
Discharge Condition:
Stable
Tolerating a regular, low residue diet.
Adequate pain control with oral medication
 
Discharge Instructions:
Please call your doctor or return to the ER for any of the 
following:
* If you are vomiting and cannot keep in fluids or your 
medications.
* You are getting dehydrated due to continued vomiting, 
diarrhea or other reasons. Signs of dehydration include dry 
mouth, rapid heartbeat or feeling dizzy or faint when standing.
* You see blood or dark/black material when you vomit or have a 
bowel movement.
* Your pain is not improving within ___ hours or not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or is changing location or moving to your chest or 

back.
*Avoid lifting objects > 5lbs until your follow-up appointment 
with the surgeon.
*Avoid driving or operating heavy machinery while taking pain 
medications.
* You have shaking chills, or a fever greater than 101.5 (F) 
degrees or 38(C) degrees.
* Any serious change in your symptoms, or any new symptoms that 
concern you. 
* Please resume all regular home medications and take any new 
meds 
as ordered. 
* Continue to ambulate several times per day.
.
Incision Care:
-Apply gauze dressing to lower part of incision to collect any 
drainage. If dry, leave open to air.
-You may shower, and wash surgical incisions.
-Avoid swimming and baths until your follow-up appointment.
-Please call the doctor if you have increased pain, swelling, 
redness, or drainage from the incision sites.
.
Monitoring Ostomy output/Prevention of Dehydration:
-Keep well hydrated.
-Replace fluid loss from ostomy daily.
-Avoid only drinking plain water. Include Gatorade and/or other 
vitamin drinks to replace fluid.
-Try to maintain ostomy output between 1000mL to 1500mL per day. 

-Measure ostomy output using hat provided to you per nursing 
staff.
-If Ostomy output >1 liter, take 2mg of Imodium, repeat 2mg with 
each episode of loose stool. Do not exceed 16mg/24 hours. 
-Please call Dr. ___ your ostomy output exceeds 1500cc per 
day to prevent dehydration.
.
Diet:
-Please continue with low residue diet until your follow-up with 
Dr. ___. 
-Refer to hand-out provided to you per nursing staff.

 
Followup Instructions:
___